US04061761
c. 2-Chloro-4'-isopropyl-3'-sulfamoylacetophenone
13.5 g of 4-isopropyl-3-sulfamoylbenzoyl chloride were reacted as prescribed in Example 66b) with diazomethane in ether, the 4'-isopropyl-3'-sulfamoyldiazoacetophenone remaining in solution without precipitating as crystals. The solution so obtained was allowed to flow into a mixture of 200 ml of diethylene glycol-dimethyl ether and 100 ml of concentrated hydrochloric acid while stirring and cooling with ice, whereafter the solvent was largely distilled off under reduced pressure. To the oily residue, 500 ml of water were added and the solution was extracted with 200 ml of ethyl acetate. Drying followed over sodium sulfate and the solvent was distilled off under reduced pressure. The oily residue crystallized in the course of 1 to 3 days and was then triturated under a small amount of xylene and filtered off. Melting point: 141° C.

reactant | 4-isopropyl-3-sulfamoylbenzoyl chloride | 13.5 g | C(C)(C)C1=C(C=C(C(=O)Cl)C=C1)S(N)(=O)=O | C10H12ClNO3S
reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | diethylene glycol dimethyl ether | 200 ml | C(COCCO)O.COC
reactant | hydrochloric acid | 100 ml | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 2-Chloro-4'-isopropyl-3'-sulfamoylacetophenone | ClCC(=O)C1=CC(=C(C=C1)C(C)C)S(N)(=O)=O | C11H14ClNO3S
